US07919628B2
To a solution of 1.00 g 5-fluoro-2-mercaptobenzoic acid ethyl ester in 10 ml methanol 0.81 g of sodium methoxide were added portionwise, followed by addition of 0.97 g 2-(2-chloro-acetylamino)-2-methyl-propionic acid methyl ester. After refluxing the reaction under argon-atmosphere for 0.5 h the resulting mixture was filtrated, 20 ml water and 1.25 ml of acetic acid were added and the precipitated product was collected by filtration, washed with water, dissolved in ethyl acetate and THF, dried over sodium sulphate, filtrated and concentrated in vacuo. The resulting crude product was crystallized from diethylether to yield 1.10 g 2-[(5-fluoro-3-hydroxy-benzo[b]thiophene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester.

reactant | 5-fluoro-2-mercaptobenzoic acid ethyl ester | 1.00 g | C(C)OC(C1=C(C=CC(=C1)F)S)=O | C9H9FO2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(2-chloro-acetylamino)-2-methyl-propionic acid methyl ester | 0.97 g | COC(C(C)(C)NC(CCl)=O)=O | C7H12ClNO3
solvent | methanol | 10 ml, 0.81 g | CO | CH4O
product | 2-[(5-fluoro-3-hydroxy-benzo[b]thiophene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 1.10 g | COC(C(C)(C)NC(=O)C1=C(C2=C(S1)C=CC(=C2)F)O)=O | C14H14FNO4S
